datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]2CCC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:34]([N+](=O)[O-])=[CH:33]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>Cl[C:20]1([N:10]2[CH:11]=[C:12](Br)[C:13](=[NH2+:14])[C:62](Br)=[CH:63]2)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[CH:10]1([Li:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:73]=[CH:74][CH:75]=[CH:76]3)=[CH:22]1.[Li+:11] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.CC1(C)C[O:12][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C2=CC=CC=C2)[O:62]C1>>CC1(C)C[O+:12]=[B-:11](C2=CC=C(C(F)(F)F)C=C2)[O:62]C1.C[CH:10](C1=CC=CC=C1)[N:20]([N:21]=[C:22]([O-:23])[O:33]CC1=CC=CC=C1)[C:41](=[O:42])[O:43]CC1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].[N-:10]1[CH:61]=[CH:62][N:72]=[CH:71]1>>C[N:33](C)[C:22](=[CH:21][CH2:20][N:10]1[CH:61]=[CH:62][N:72]=[CH:71]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].[C:10](=[C:11]=[N-:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([C:10]([C:11]#[N:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1)[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[C-:10]1[C:61](=[O:62])[O:72]CC[C:81]1=[O:82]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2(C)[C:61](=[O:62])[O:72]CC[C:81]2=[O:82])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C:11]1=[N+:12](C)C2=C(C=CC=C2)[CH:10]1[C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[CH:62]=[CH:63]/C.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[CH:10]([CH+:11]/[CH:62]=[CH:63]/C)[CH:20]([C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].CC[O:82][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62]>>CC[O:82][C:61]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62] 10=20;20,21=21,22;22,23=23"
"N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[N-:10]=[N+:11]=[N-:12]>>N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N-:10][N+:11]#[N:12])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12"
